US06624159B2
3-Ethyl 1-Isobutyl 8-((acetyloxy)methyl)-6-methyl-4-oxo-1,3(4H)-quinolinedicarboxylate [AV.5]
Sodium hydride (3.1 g, 60% dispersion) is added at 0° C. to a stirred solution of ethyl 8-((acetyloxy)methyl)-4-hydroxy-6-methyl-3-quinolinecarboxylate (Preparation 25, 29.6 g) in N-methylpyrrolidinone (250 ml). The solution is allowed to warm to room temperature over 10 min and isobutyl chloroformate (25.5 g) is then added. After 30 min, acetic acid (3.6 g) is added. The solvent is evaporated under reduced pressure, and the residual oil is partitioned between ethyl acetate and water. The ethyl acetate layer is concentrated to give an oil. The crude product is dissolved in ethyl acetate (50 ml) and is chromatographed on silica gel with 10% ethyl acetate/hexane as the initial eluant to give 19.5 g of the title compound. A sample is recrystallized from ethyl acetate/hexane for analysis. Physical characteristics: M.p. 101-103° C.; 1H NMR (CDCl3) δ1.05, 1.44, 2.12, 2.18, 2.59, 4.15, 4.45, 5.82, 7.74, 7.88, 9.40. Anal. Found: C, 62.42; H, 6.34; N, 3.45.

reactant | Sodium hydride | 3.1 g | [H-].[Na+]
reactant | ethyl 8-((acetyloxy)methyl)-4-hydroxy-6-methyl-3-quinolinecarboxylate | 29.6 g | C(C)(=O)OCC=1C=C(C=C2C(=C(C=NC12)C(=O)OCC)O)C | C16H17NO5
reactant | isobutyl chloroformate | 25.5 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | acetic acid | 3.6 g | C(C)(=O)O | C2H4O2
solvent | N-methylpyrrolidinone | 250 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 3-Ethyl 1-Isobutyl 8-((acetyloxy)methyl)-6-methyl-4-oxo-1,3(4H)-quinolinedicarboxylate | 19.5 g | C(C)(=O)OCC=1C=C(C=C2C(C(=CN(C12)C(=O)OCC(C)C)C(=O)OCC)=O)C | C21H25NO7
